US06599902B2
Synthesis of 5-(2,6-Dimethyl-phenylmethanesulfonyl)-3-[1-[4-(4-hydroxy-piperidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.26 mmol), piperidin-4-ol (1.2 eq.), HOBt (1.21 eq.), EDAC.HCl (1.2 eq.) and TEA (3 eq.) in DMF (0.2 M) was stirred at rt for overnight. The reaction was concentrated, diluted with DCM, washed with water, dried and concentrated. The residue was triturated with ethyl ether to give the titled compound.

reactant | 5-[5-(2,6-dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.26 mmol, 120 mg | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C25H24N2O5S
reactant | piperidin-4-ol | 1.2 eq. | N1CCC(CC1)O | C5H11NO
reactant | HOBt | 1.21 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 1.2 eq. | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
product | 5-(2,6-Dimethyl-phenylmethanesulfonyl)-3-[1-[4-(4-hydroxy-piperidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1CCC(CC1)O)C | C30H33N3O5S
